US08426411B2
tert-Butyl trans-4-aminocyclohexylmethylcarbamate (0.059 g, 0.258 mmol, AMRI) was added to a mixture of 6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazine-8-carbaldehyde (0.0403 g, 0.215 mmol, Preparation #38) and THF (1.0 mL). The mixture was stirred at ambient temperature for about 90 min. Sodium triacetoxyborohydride (0.068 g, 0.32 mmol) was added. After about 3 h, DMF (0.500 mL) was added. After about 15 h, Na(OAc)3BH (0.091 g, 0.43 mmol) was added. After about 24 h, Na(OAc)3BH (0.091 g, 0.43 mmol) was added. The mixture was warmed to about 40° C. After about 22 h, the mixture was allowed to cool to ambient temperature. Saturated aqueous NaHCO3/water (1:1, 2 mL) was added. After vigorously stirring for about 1 h, the solution was diluted with water (3 mL) and then extracted with EtOAc (6×10 mL). The combined organics were dried over Na2SO4, filtered, and concentrated under reduced pressure. The residue was purified silica gel chromatography eluting with a gradient of 10-100% [(1% 7 N NH3 in MeOH) in 10% MeOH/DCM]/DCM to give tert-butyl(trans-4-((6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazin-8-yl)methylamino)cyclohexyl)methylcarbamate (0.0476 g, 53%): LC/MS (Table 1, Method a) Rt=1.24 min; MS m/z 400 (M+H)+.

reactant | tert-Butyl trans-4-aminocyclohexylmethylcarbamate | 0.258 mmol, 0.059 g | N[C@@H]1CC[C@H](CC1)CNC(OC(C)(C)C)=O | C12H24N2O2
reactant | 6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazine-8-carbaldehyde | 0.215 mmol, 0.0403 g | C1=NN=C2N1C1=C(N=C2)NC=C1C=O | C8H5N5O
reactant | Sodium triacetoxyborohydride | 0.32 mmol, 0.068 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | Na(OAc)3BH | 0.43 mmol, 0.091 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | Na(OAc)3BH | 0.43 mmol, 0.091 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | NaHCO3 water | 2 mL | C(=O)(O)[O-].[Na+].O
solvent | water | 3 mL | O | H2O
solvent | DMF | 0.500 mL | CN(C)C=O | C3H7NO
solvent | THF | 1.0 mL | C1CCOC1 | C4H8O
product | tert-butyl(trans-4-((6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazin-8-yl)methylamino)cyclohexyl)methylcarbamate | 0.0476 g, 53% | C(C)(C)(C)OC(NC[C@@H]1CC[C@H](CC1)NCC1=CNC=2N=CC=3N(C21)C=NN3)=O | C20H29N7O2
